US07655804B2
By the same procedure as described in step 7 of example 1 using the compound prepared in step 1, a free compound of N′-(3,4,4-trimethyl-1,3-thiazolidin-2-ylidene)-[3-cyclohexylcarbonylamino-3-(tetrahydropyran-4-yl)-2-o xopropanohydrazide] was given. To the free compound was added 4N hydrochloric acid-ethyl acetate solution and the mixture was stirred for 1 hour at room temperature and the mixture was concentrated. The residue was washed with ehyl acetate to give N′-(3,4,4-trimethyl-1,3-thiazolidin-2-ylidene)-[3-cyclohexylcarbonylamino-3-(tetrahydropyran-4-yl)-2-oxopropanohydrazide] hydrochloride (140 mg).

reactant | N′-(3,4,4-trimethyl-1,3-thiazolidin-2-ylidene)-[3-cyclohexylcarbonylamino-3-(tetrahydropyran-4-yl)-2-o xopropanohydrazide] | CN1C(SCC1(C)C)=NNC(C(C(C1CCOCC1)NC(=O)C1CCCCC1)=O)=O | C21H34N4O4S
reactant | hydrochloric acid ethyl acetate | 4N | Cl.C(C)(=O)OCC
product | N′-(3,4,4-trimethyl-1,3-thiazolidin-2-ylidene)-[3-cyclohexylcarbonylamino-3-(tetrahydropyran-4-yl)-2-oxopropanohydrazide] hydrochloride | 140 mg | Cl.CN1C(SCC1(C)C)=NNC(C(C(C1CCOCC1)NC(=O)C1CCCCC1)=O)=O | InChI=1S/C21H34N4O4S.ClH/c1-21(2)13-30-20(25(21)3)24-23-19(28)17(26)16(14-9-11-29-12-10-14)22-18(27)15-7-5-4-6-8-15;/h14-16H,4-13H2,1-3H3,(H,22,27)(H,23,28);1H
